US07981903B2
A mixture of 1-acetyl-5-(methyloxy)-6-nitro-2,3-dihydro-1H-indole Intermediate B98 (0.56 g, 2.37 mmol) and 10% Pd on carbon (500 mg) in EtOH (100 mL) was stirred overnight under 1 atm of H2 gas, then was filtered through a pad of Celite. The filtrate was concentrated to dryness. The residue was dissolved in CH2Cl2 and purified by silica gel chromatography using 30-60% EtOAc/CH2Cl2to obtain 1-acetyl-5-(methyloxy)-2,3-dihydro-1H-indol-6-amine as a white solid (327 mg, 67%). 1H NMR (400 MHz, DMSO-d6) δ ppm 2.09 s, 3H), 2.98 (t, J=8.33 Hz 2H), 3.70 (s, 3H), 3.99 (t, J=8.33 Hz, 2H), 4.62 (s, 2H), 6.69 (s, 1H), 7.52 (s, 1H); ESIMS (M+H)+=207.

reactant | 1-acetyl-5-(methyloxy)-6-nitro-2,3-dihydro-1H-indole | C(C)(=O)N1CCC2=CC(=C(C=C12)[N+](=O)[O-])OC | C11H12N2O4
solvent | EtOH | 100 mL | CCO | C2H6O
catalyst | Pd on carbon | 500 mg | [Pd] | Pd
product | 1-acetyl-5-(methyloxy)-2,3-dihydro-1H-indol-6-amine | 327 mg, 67% | C(C)(=O)N1CCC2=CC(=C(C=C12)N)OC | C11H14N2O2
